US06780883B2
Biphenyl-2-carboxylic acid (3-methoxy-phenyl)-amide
Pyridine (3.6 mL, 45 mmol) and 3-methoxyaniline (1.54 g, 12.5 mmol) were added to a solution of 2-phenylbenzoyl chloride (3.25 g, 15 mmol) in dichloromethane (30 mL) The reaction mixture was stirred at room temperature for 2.5 hours. 1M HCl solution (45 mL) was added, and the organic layer was washed with 1M NaOH solution (10 mL), aqueous sodium bicarbonate (30 mL), and brine (30 mL). The organic phase was concentrated to dryness to give the title compound as a tan solid (3.92 g). MH+304: 1H (D6-DMSO) δ 3.67 (3H, s), 6.60 (1H, dd, J=8, 2), 7.04 (1H, d, J=8), 7.14 (1H, t, J=8), 7.18 (1H, m), 7.23-7.57 (9H, m), 10.0 (1H, s, NH).

reactant | Pyridine | 45 mmol, 3.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-methoxyaniline | 12.5 mmol, 1.54 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | 2-phenylbenzoyl chloride | 15 mmol, 3.25 g | C1(=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO
reactant | HCl | 1M, 45 mL | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Biphenyl-2-carboxylic acid (3-methoxy-phenyl)-amide | 3.92 g | COC=1C=C(C=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C20H17NO2
